US09422312B2
Step 3: 4-[4-(2-{[(3R,3aR,6R,6aR)-6-Hydroxy-hexahydrofuro[3,2-b]furan-3-yl]oxy}-6-chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridin-5-yl)phenyl]-N,N,N′-trimethyl-benzenesulfonimidamide
The title compound is prepared from (3R,3aR,6R,6aR)-6-(6-chloro-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridin-2-yloxy)hexahydrofuro[3,2-b]furan-3-ol and 4-bromo-N,N,N′-trimethyl-benzenesulfonimidamide following a procedure analogous to that described for Intermediate 3 (Step 3) using 1,4-dioxane as a solvent. LC (method 1): tR=1.06 min; Mass spectrum (ESI+): m/z=700 [M+H]+.

reactant | (3R,3aR,6R,6aR)-6-(6-chloro-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridin-2-yloxy)hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)N(C(=N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O)COCC[Si](C)(C)C | C30H41BClN3O7Si
reactant | 4-bromo-N,N,N′-trimethyl-benzenesulfonimidamide | BrC1=CC=C(C=C1)S(=O)(N(C)C)=NC | C9H13BrN2OS
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 4-[4-(2-{[(3R,3aR,6R,6aR)-6-Hydroxy-hexahydrofuro[3,2-b]furan-3-yl]oxy}-6-chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridin-5-yl)phenyl]-N,N,N′-trimethyl-benzenesulfonimidamide | O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC2=NC=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(N(C)C)=NC)N2COCC[Si](C)(C)C | C33H42ClN5O6SSi
